US05500453
A solution of 5.58 g of lithium (2-tert-butylethenyl)tris(p-bromophenyl)borate in 50 ml of acetonitrile was added to a solution of 6.41 g of phenyl(1-naphthyl)(1-naphthyl-carbonylmethyl)sulfonium hexafluoroantimonate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 4.27 of phenyl(1-naphthyl)(1-naphthyl-carbonylmethyl)sulfonium-(2-tert-butylethenyl)tris(p-bromophenyl)borate.

reactant | lithium (2-tert-butylethenyl)tris(p-bromophenyl)borate | 5.58 g | C(C)(C)(C)C=C[B-](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br.[Li+]
reactant | phenyl(1-naphthyl)(1-naphthyl-carbonylmethyl)sulfonium hexafluoroantimonate | 6.41 g | F[Sb-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | phenyl(1-naphthyl)(1-naphthyl-carbonylmethyl)sulfonium (2-tert-butylethenyl)tris(p-bromophenyl)borate | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12.C(C)(C)(C)C=C[B-](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | InChI=1S/C28H21OS.C24H23BBr3/c29-27(26-18-8-12-21-10-4-6-16-24(21)26)20-30(23-14-2-1-3-15-23)28-19-9-13-22-11-5-7-17-25(22)28;1-24(2,3)16-17-25(18-4-10-21(26)11-5-18,19-6-12-22(27)13-7-19)20-8-14-23(28)15-9-20/h1-19H,20H2;4-17H,1-3H3/q+1;-1
